US08476434B2
A mixture of methyl 3-bromobenzoate (1.0 g, 4.7 mmol), 2-(dicyclohexylphosphino)-2′-(N,N-dimethylamino)biphenyl (0.037 g, 0.093 mmol), tris(dibenzylidineacetone)dipalladium (0) (0.021 g, 0.023 mmol), anhydrous K3PO4 (1.4 g, 6.5 mmol) in 9.3 mL toluene under argon was added (S)—N,N-dimethylpyrrolidin-3-amine (0.71 mL, 5.6 mmol). The reaction was sealed and heated to 80 deg. C. for 3 days. The reaction was cooled to ambient temperature, was diluted with ethyl acetate, and filtered through celite. The filtrate was concentrated in vacuo to give a brown oil, which was further purified by silica gel chromatography, using 90/10/1 dichloromethane/methanol/sat'd ammonium hydroxide as eluent to give (S)-methyl 3-(3-(dimethylamino)pyrrolidin-1-yl)benzoate as a light brown oil.

reactant | methyl 3-bromobenzoate | 4.7 mmol, 1.0 g | BrC=1C=C(C(=O)OC)C=CC1 | C8H7BrO2
reactant | 2-(dicyclohexylphosphino)-2′-(N,N-dimethylamino)biphenyl | 0.093 mmol, 0.037 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1)N(C)C)C1CCCCC1 | C26H36NP
reactant | K3PO4 | 6.5 mmol, 1.4 g | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | (S)—N,N-dimethylpyrrolidin-3-amine | 5.6 mmol, 0.71 mL | CN([C@@H]1CNCC1)C | C6H14N2
solvent | toluene | 9.3 mL | C1(=CC=CC=C1)C | C7H8
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (S)-methyl 3-(3-(dimethylamino)pyrrolidin-1-yl)benzoate | CN([C@@H]1CN(CC1)C=1C=C(C(=O)OC)C=CC1)C | C14H20N2O2
